US08791119B2
To a solution of 1.24 g (2.83 mmol) of tert-butyl 8-carbamoyl-6-bromo-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in 10 ml of dichloromethane are added slowly 2.8 ml (28 mmol) of trifluoroacetic acid. After stirring for 1 hour at room temperature, the solvent is evaporated off under reduced pressure, the residue is taken up in water and the aqueous phase is basified by addition of aqueous ammonia. The solid formed is separated out by filtration and rinsed with water, to give 0.92 g of 6-bromo-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide in the form of a beige-coloured powder after drying under reduced pressure in the presence of potassium hydroxide.

reactant | tert-butyl 8-carbamoyl-6-bromo-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 2.83 mmol, 1.24 g | C(N)(=O)C=1C(=C(N2C1CN(CC2)C(=O)OC(C)(C)C)Br)C2=CC(=CC=C2)F | C19H21BrFN3O3
reactant | trifluoroacetic acid | 28 mmol, 2.8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-bromo-7-(3-fluorophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide | 0.92 g | BrC1=C(C(=C2N1CCNC2)C(=O)N)C2=CC(=CC=C2)F | C14H13BrFN3O
